US07727988B2
3-Benzoyl-1-(4-chloro-butyl)-5-(2-methyl-pyridin-4-yl)-1H-pyrimidine-2, 4-dione (Prep45)
3-Benzoyl-1-(4-chloro-butyl)-5-iodo-1H-pyrimidine-2,4-dione (Prep 44, 433 mg, 1 mmol) was dissolved in degassed DME-water solution (5-1, 30 mL). 2-methyl-pyridine 4-boronic acid (205 mg, 1.5 mmol), Na2CO3 (212 mg, 2 mmol), 2-(dicyclohexylphosphino)biphenyl (70 mg, 0.2 mmol) and Pd(PPh3)4 (231 mg, 0.2 mmol) were added and the mixture was refluxed for 6 hours. The solvents were evaporated under vacuum and the crude was partitioned between ethyl acetate and water. The organic phase was dried (Na2SO4) and evaporated; the crude was purified by flash chromatography with DCM-MeOH—NH4OH (98-2-0.2) and SCX cartridge washing with MeOH and eluting with MeOH/NH3 95:5 to give the title compound (100 mg, 25% yield).

reactant | 3-Benzoyl-1-(4-chloro-butyl)-5-iodo-1H-pyrimidine-2,4-dione | 1 mmol, 433 mg | C(C1=CC=CC=C1)(=O)N1C(N(C=C(C1=O)I)CCCCCl)=O | C15H14ClIN2O3
reactant | 2-methyl-pyridine 4-boronic acid | 1.5 mmol, 205 mg | CC1=NC=CC(=C1)B(O)O | C6H8BNO2
reactant | Na2CO3 | 2 mmol, 212 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 2-(dicyclohexylphosphino)biphenyl | 0.2 mmol, 70 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
solvent | DME water | 30 mL | COCCOC.O
catalyst | Pd(PPh3)4 | 0.2 mmol, 231 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-Benzoyl-1-(4-chloro-butyl)-5-(2-methyl-pyridin-4-yl)-1H-pyrimidine-2, 4-dione | 100 mg, 25% yield | C(C1=CC=CC=C1)(=O)N1C(N(C=C(C1=O)C1=CC(=NC=C1)C)CCCCCl)=O | C21H20ClN3O3
